US07375113B2
To a solution of 3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-4-[(E)-2-(pyridin-4-yl)vinyl]-1H-indazole (0.13 g) in tetrahydrofuran (6 mL) was added 10% palladium-carbon powder (26 mg), and the mixture was stirred at room temperature under a hydrogen atmosphere for 2 hours. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure to give 3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-4-[2-(pyridin-4-yl)ethyl]-1H-indazole (0.13 g). This material was dissolved in methanol (6 mL). To the solution was added sodium methoxide (28% methanol solution, 0.12 mL), and the mixture was stirred at 50° C. overnight. To the reaction mixture was added acetic acid (0.05 mL), and the resulting mixture was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=5/1 containing triethylamine at 3%) to give the title compound (70 mg).

reactant | 3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-4-[(E)-2-(pyridin-4-yl)vinyl]-1H-indazole | 0.13 g | C(C(C)(C)C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C(C)(C)C)=O)OC(C(C)(C)C)=O)COC(C(C)(C)C)=O)OC1=NNC2=CC=CC(=C12)\C=C\C1=CC=NC=C1 | C40H53N3O10
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
catalyst | palladium-carbon | 26 mg | [C].[Pd]
product | 3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-4-[2-(pyridin-4-yl)ethyl]-1H-indazole | 0.13 g | C(C(C)(C)C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C(C)(C)C)=O)OC(C(C)(C)C)=O)COC(C(C)(C)C)=O)OC1=NNC2=CC=CC(=C12)CCC1=CC=NC=C1 | C40H55N3O10
